datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"CC/C=C/Cc1n(C(C(=O)[O-])C(C)(C)S)cc(C(=O)[O-])[n+:21]1[H:20].Cc1nc2ccccc2[n:10]c1[O-]>>CC/C=C/Cc1n(C(C(=O)[O-])C(C)(C)S)cc(C(=O)[O-])[n:21]1.Cc1nc2ccccc2[n+:10]([H:20])c1[O-] 10=20;20,21=21",
"CN(C)c1cccc2c(S(=O)(=O)[NH:21][H:20])cccc12.Cc1ccc(C(=O)[O-:10])cc1>>CN(C)c1cccc2c(S(=O)(=O)[NH-:21])cccc12.Cc1ccc(C(=O)[O:10][H:20])cc1 10=20;20,21=21",
"ON=C1CCCC(=NO)C1=N[O:21][H:20].[NH3+][C@H]1CC[C@H](C(=O)[O-:10])CC1>>ON=C1CCCC(=NO)C1=N[O-:21].[NH3+][C@H]1CC[C@H](C(=O)[O:10][H:20])CC1 10=20;20,21=21",
"C=C(C)[C@H]1C[NH:10][C@H](C(=O)[O-])[C@H]1CC(N)=O.N#Cc1cc(-c2ccccc2)n[n+:21]([H:20])c1NCC[NH+]1CCOCC1>>C=C(C)[C@H]1C[NH+:10]([H:20])[C@H](C(=O)[O-])[C@H]1CC(N)=O.N#Cc1cc(-c2ccccc2)n[n:21]c1NCC[NH+]1CCOCC1 10=20;20,21=21",
"CN(C)c1cc[nH+]c2c([O-:10])cccc12.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CN(C)c1cc[nH+]c2c([O:10][H:20])cccc12.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Cc1cc(C)c([O-:10])c(C)c1.Nc1cc([NH2+:21][H:20])ccc1[NH3+]>>Cc1cc(C)c([O:10][H:20])c(C)c1.Nc1cc([NH2:21])ccc1[NH3+] 10=20;20,21=21",
"CC(C[NH3+])C(=O)[O:21][H:20].CN(c1ccccc1)C([O-])[OH:10]>>CC(C[NH3+])C(=O)[O-:21].CN(c1ccccc1)C([O-])[OH+:10][H:20] 10=20;20,21=21",
"CN1c2ccc(OC(=O)[N-:10]C)cc2[C@@]2(C)CC[NH+](C)[C@@H]12.O=CN[NH2+:21][H:20]>>CN1c2ccc(OC(=O)[N:10](C)[H:20])cc2[C@@]2(C)CC[NH+](C)[C@@H]12.O=CN[NH2:21] 10=20;20,21=21",
"CC(=O)NCC[S:21][H:20].[H][N-:10]C1=CC=CC=C1>>CC(=O)NCC[S-:21].[H][N:10](C1=CC=CC=C1)[H:20] 10=20;20,21=21",
"COc1cccc2c1CN(C1CC3CCC(C1)[N+:21]3(Cc1ccccc1)[H:20])C2=O.O=[N+]([O-])c1cccc2cccc([NH2:10])c12>>COc1cccc2c1CN(C1CC3CCC(C1)[N:21]3Cc1ccccc1)C2=O.O=[N+]([O-])c1cccc2cccc([NH2+:10][H:20])c12 10=20;20,21=21",
"O=C(CC[NH:10]CCC(=O)c1ccccc1)c1ccccc1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>O=C(CC[NH+:10](CCC(=O)c1ccccc1)[H:20])c1ccccc1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CC(=O)Nc1ccc(S(=O)(=O)Nc2nc(C)cc[n:10]2)cc1.Nc1n(-c2ccc(Cl)cc2)nn[n+:21]1[H:20]>>CC(=O)Nc1ccc(S(=O)(=O)Nc2nc(C)cc[n+:10]2[H:20])cc1.Nc1n(-c2ccc(Cl)cc2)nn[n:21]1 10=20;20,21=21",
"CC1CCC[NH:10]C1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC1CCC[NH+:10]([H:20])C1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CN(C)c1ccc(NC(=O)/C=N/[O-:10])cc1.C[N+:21](C)(Cc1cccc(O)c1O)[H:20]>>CN(C)c1ccc(NC(=O)/C=N/[O:10][H:20])cc1.C[N:21](C)Cc1cccc(O)c1O 10=20;20,21=21",
"CCC[Si](C)(CCC)CC(=O)[O-:10].c1cc([O:21][H:20])c2cnccc2c1>>CCC[Si](C)(CCC)CC(=O)[O:10][H:20].c1cc([O-:21])c2cnccc2c1 10=20;20,21=21",
"C=CCc1ccc2ccc[n+:21]([H:20])c2c1O.CC1=[N:10]CCc2c1[nH]c1ccc([N+](=O)[O-])cc21>>C=CCc1ccc2ccc[n:21]c2c1O.CC1=[N+:10]([H:20])CCc2c1[nH]c1ccc([N+](=O)[O-])cc21 10=20;20,21=21",
"CCN/C(N)=[O+:21]\[H:20].CC[N:10](CC)CC1CO1>>CCNC(N)=[O:21].CC[N+:10](CC)(CC1CO1)[H:20] 10=20;20,21=21",
"Cc1ccccc1C(=NCCCC[N:10](C)C)c1ccccc1C.Cc1nc2c(n1C)C(=O)c1nc[nH+]c([O:21][H:20])c1C2=O>>Cc1ccccc1C(=NCCCC[N+:10](C)(C)[H:20])c1ccccc1C.Cc1nc2c(n1C)C(=O)c1nc[nH+]c([O-:21])c1C2=O 10=20;20,21=21",
"NCC[NH:10]CCCO.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>NCC[NH+:10](CCCO)[H:20].[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"CCOc1cccc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:21]3(Cc2ccccc2)[H:20])c1OC.COc1ccccc1C(=O)[O-:10]>>CCOc1cccc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:21]3Cc2ccccc2)c1OC.COc1ccccc1C(=O)[O:10][H:20] 10=20;20,21=21",
"Brc1ccccc1-c1nnn[n-:10]1.CC1(C)NC(=S)[N:21]([H:20])C1=O>>Brc1ccccc1-c1nnn[n:10]1[H:20].CC1(C)NC(=S)[N-:21]C1=O 10=20;20,21=21",
"CC[N-:10]C(=S)OC(C)C.NC1=[N+:21]([H:20])[C@H]2C[C@@H](N1)N[C@@H]2C(=O)[O-]>>CC[N:10](C(=S)OC(C)C)[H:20].NC1=[N:21][C@H]2C[C@@H](N1)N[C@@H]2C(=O)[O-] 10=20;20,21=21",
"CC1=C[N:10](C)CC1C.CC[SH+]C(O)(C(F)(F)F)[O:21][H:20]>>CC1=C[N+:10](C)([H:20])CC1C.CC[SH+]C(O)(C(F)(F)F)[O-:21] 10=20;20,21=21",
"C=C[C@]1(O)C[C@H](C)[NH+:21]([H:20])[C@@H]2CCCC[C@H]21.CC(C)C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[n:10]1)C(=O)[O-]>>C=C[C@]1(O)C[C@H](C)[NH:21][C@@H]2CCCC[C@H]21.CC(C)C[C@H]([NH3+])C(=O)N[C@@H](Cc1c[nH]c[n+:10]1[H:20])C(=O)[O-] 10=20;20,21=21",
"CC(C)/[N:10]=C\N(C)c1ccc(-c2c[nH]cn2)cc1.[NH3+]C(CC(=O)[O:21][H:20])c1cccc[nH+]1>>CC(C)/[N+:10](=C\N(C)c1ccc(-c2c[nH]cn2)cc1)[H:20].[NH3+]C(CC(=O)[O-:21])c1cccc[nH+]1 10=20;20,21=21",
"CC[NH2+]CCC(=O)[O:21][H:20].N[N-:10]C(=O)C(F)(F)C(F)(F)F>>CC[NH2+]CCC(=O)[O-:21].N[N:10](C(=O)C(F)(F)C(F)(F)F)[H:20] 10=20;20,21=21",
"NC(=O)c1c(CC(=O)[O:21][H:20])n[nH]c1N.Nc1ccc2ccc[n:10]c2c1>>NC(=O)c1c(CC(=O)[O-:21])n[nH]c1N.Nc1ccc2ccc[n+:10]([H:20])c2c1 10=20;20,21=21",
"CN(C)C(O)[OH+:21][H:20].C[N:10]1[C@@H]2CC[C@H]1C[C@H](OC(=O)C(O)c1ccccc1)C2>>CN(C)C(O)[OH:21].C[N+:10]1([H:20])[C@@H]2CC[C@H]1C[C@H](OC(=O)C(O)c1ccccc1)C2 10=20;20,21=21",
"CC(C)(O)[O-:10].C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(C(F)(F)F)C=C2)[H:20])=C1>>CC(C)(O)[O:10][H:20].C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(C(F)(F)F)C=C2)=C1 10=20;20,21=21",
"CC(C)(C)[O-:10].O=C(C1=CN=CC=C1)[CH:21](C1=CC=C([N+](=O)[O-])C=C1)[H:20]>>CC(C)(C)[O:10][H:20].O=C(C1=CN=CC=C1)[CH-:21]C1=CC=C([N+](=O)[O-])C=C1 10=20;20,21=21",
